US08378104B2
Step C: 2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thieno[2,3-c]pyridine
A solution of 3-bromo-2-methylthieno[2,3-c]pyridine (100 mg, 0.44 mmol), bis(pinacolato)diboron (557 mg, 2.19 mmol), potassium acetate (301 mg, 3.07 mmol), and 1,1′-bis(diphenylphosphino)ferrocenepalladium(II) dichloride dichloromethane complex (36 mg, 0.04 mmol) in 1,4-dioxane (2.5 mL) was heated to 105° C. for 18 h. The mixture was diluted with EtOAc and washed with saturated aqueous NaHCO3, water and brine. The organic layer was dried over anhydrous Na2SO4. The material was purified by ISCO chromatography (0 to 20% EtOAc:heptane) to afford 50 mg (41%) of the title compound as a white solid. 1H NMR (400 MHz, CD3Cl): δ 9.01 (s, 1 H), 8.46 (d, J=5.6 Hz, 1 H), 8.19 (d, J=5.6 Hz, 1 H), 2.88 (s, 3 H), 1.40 (s, 12 H); MS (ESI): 276.11 [M+H]+; HPLC tR=1.28 min (TOF: polar—3 min).

reactant | 3-bromo-2-methylthieno[2,3-c]pyridine | 0.44 mmol, 100 mg | BrC1=C(SC2=CN=CC=C21)C | C8H6BrNS
reactant | bis(pinacolato)diboron | 2.19 mmol, 557 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 3.07 mmol, 301 mg | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 2.5 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-methyl-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)thieno[2,3-c]pyridine | 50 mg, 41% | CC1=C(C=2C(=CN=CC2)S1)B1OC(C(O1)(C)C)(C)C | C14H18BNO2S
